US06069158
b) 2-(N-Boc-N-ethylamino)-6-picoline
To a suspension of NaH (60% dispersion in mineral oil, 1.15 g, 29.5 mmol) i.l DMF (50 mL) at 0° C. was added a solution of 2-(N-Boc-amino)-6-picoline in DMF (30 mL). The reaction was stirred at 0° C. for 15 min; then ethyl iodide (4.6 g, 30 mmol) was added. The reaction mixture was stirred at RT overnight; then was concentrated in vacuum. The residue was diluted with H2O and extracted with CH2Cl2 (3×50 mL). Drying (MgSO4), concentration, and silica gel chromatography (20% EtOAc/hexane) gave the title compound as colorless oil: MS (ES) m/e 237 (M+H)+.

reactant | NaH | 29.5 mmol, 1.15 g | [H-].[Na+]
reactant | 2-(N-Boc-amino)-6-picoline | C(=O)(OC(C)(C)C)NC1=NC(=CC=C1)C | C11H16N2O2
reactant | ethyl iodide | 30 mmol, 4.6 g | C(C)I | C2H5I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(N-Boc-N-ethylamino)-6-picoline | C(=O)(OC(C)(C)C)N(CC)C1=NC(=CC=C1)C | C13H20N2O2
